US04795814
To 30 ml of anhydrous diethyl ether solution containing 5 g of ethyl 4-hydroxycinnamate was added 7.1 ml of dihydropyran and 50 mg of p-toluenesulfonic acid were added, the mixture was stirred at room temperature for 2 hours. Then the reaction mixture was neutralized with 1%-sodium hydroxude solution, washed with water, and dried with anhydrous sodium sulfate. The solvent was removed by evaporation to yield 6.8 g of ethyl 4-(2-tetrahydropyranyloxy)cinnamate. Colorless indefinite form crystatls. Melting point: 52°-53° C.

reactant | ethyl 4-hydroxycinnamate | 5 g | OC1=CC=C(C=CC(=O)OCC)C=C1 | C11H12O3
reactant | dihydropyran | 7.1 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium | [Na] | Na
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | ethyl 4-(2-tetrahydropyranyloxy)cinnamate | 6.8 g | O1C(CCCC1)OC1=CC=C(C=CC(=O)OCC)C=C1 | C16H20O4
